### PR TITLE
[Merged by Bors] - feat(RingTheory): add `Polynomial.toMvPolynomial`

### PR DESCRIPTION
**Pull request by chrisflav**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 1]
```diff
@@ -579,3 +579,48 @@ theorem rename_polynomial_aeval_X {σ τ : Type*} (f : σ → τ) (i : σ) (p :
...
+
+@[simp]
+lemma Polynomial.toMvPolynomial_X (i : σ) : X.toMvPolynomial i = MvPolynomial.X (R := R) i := by
+  simp [toMvPolynomial]
+
+@[simp]
+lemma MvPolynomial.aeval_comp_toMvPolynomial (f : σ → S) (i : σ) :
+    (aeval (R := R) f).comp (toMvPolynomial i) = Polynomial.aeval (f i) := by
+  ext
+  simp [toMvPolynomial, aeval_rename, Polynomial.aeval_def]
```
Comment (ADedecker) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:608]: Could you also add the corollary that `toMvPolynomial i = aeval (X i)`? In fact is there a reason not to use that as the definition? This would feel more natural to me.

Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean]: Only blindness :) Changed the definition and added your lemma in the "converse" direction, thanks!

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 2]
```diff
@@ -579,3 +579,55 @@ theorem rename_polynomial_aeval_X {σ τ : Type*} (f : σ → τ) (i : σ) (p :
...
+
+lemma Polynomial.toMvPolynomial_injective (i : σ) :
+    Function.Injective (toMvPolynomial (R := R) i) := by
+  simp only [toMvPolynomial_eq_rename_comp, AlgHom.coe_comp, AlgHom.coe_coe,
+    EquivLike.injective_comp]
+  exact MvPolynomial.rename_injective (fun x ↦ i) fun _ _ _ ↦ rfl
+
+@[simp]
+lemma MvPolynomial.aeval_comp_toMvPolynomial (f : σ → S) (i : σ) :
+    (aeval (R := R) f).comp (toMvPolynomial i) = Polynomial.aeval (f i) := by
```
Comment (urkud) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:613]: Is it true for `aeval (R := _)`, not just `R := R`? Also, please add `eval` version.

Comment (chrisflav) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean:623]: Added the `eval` version. I am not sure I understand your question about `R := R` though, I think `R := R` is the most general spelling? (We just need to give the `R` explicitly here, because it does not appear anywhere else in the statement).

Comment (urkud) [reply Mathlib/Algebra/MvPolynomial/Equiv.lean:623]: I'm sorry, I've messed up `R` with `A` in `aeval`.

**Comment by urkud** [comment]
Thanks! :tada:
bors merge
